US04318913
1-Methyl-N5 -[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine
1-Methyl-N5 -[3-[3-(bromomethyl)phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine, hydrobromide (0.3 g) was dissolved in ethanol (5 ml) and treated with piperidine (0.3 g) at room temperature. The solvent was evaporated in vacuo and the residue triturated with ethyl acetate to afford the title compound as a white crystalline solid (0.22 g).

reactant | 1-Methyl-N5 -[3-[3-(bromomethyl)phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine, hydrobromide | 0.3 g | Br.CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CBr)N
reactant | piperidine | 0.3 g | N1CCCCC1 | C5H11N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-Methyl-N5 -[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 0.22 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)N | C18H28N6O
